US05441969
2-Amino-1-[3-(3-furyl)-4-cyanophenyl]benzimidazole was prepared from 2-amino-1-[3-chloro-4-cyanophenyl]benzimidazole and 3-furylboronic acid by method B. mp 140°-144° C.

reactant | 2-amino-1-[3-chloro-4-cyanophenyl]benzimidazole | NC1=NC2=C(N1C1=CC(=C(C=C1)C#N)Cl)C=CC=C2 | C14H9ClN4
reactant | 3-furylboronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
product | 2-Amino-1-[3-(3-furyl)-4-cyanophenyl]benzimidazole | NC1=NC2=C(N1C1=CC(=C(C=C1)C#N)C1=COC=C1)C=CC=C2 | C18H12N4O
